US09359362B2
N-{(7R)-6-Cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]-triazolo[1,5-a]pyrimidin-2-yl}glycine
Under an atmosphere of argon protective gas, tert-butyl N-{(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}glycinate (18.0 mg, 34 μmol) was dissolved in dry dichloromethane (3.1 ml). At room temperature, trifluoroacetic acid (1.6 ml) was added, and the mixture was stirred for 45 min. More trifluoroacetic acid (2 ml) was then added, and the mixture was stirred for a further 30 min. The reaction mixture was then concentrated under reduced pressure and the residue was purified by preparative HPLC (Gromsil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (15.2 mg, 94% of theory).

reactant | tert-butyl N-{(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}glycinate | 34 μmol, 18.0 mg | C(#N)C1=C(N(C=2N([C@@H]1C1=CC=C(C=C1)C#N)N=C(N2)NCC(=O)OC(C)(C)C)C2=CC(=CC=C2)C(F)(F)F)C | C27H24F3N7O2
reactant | trifluoroacetic acid | 1.6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3.1 ml | ClCCl | CH2Cl2
product | N-{(7R)-6-Cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]-triazolo[1,5-a]pyrimidin-2-yl}glycine | C(#N)C1=C(N(C=2N([C@@H]1C1=CC=C(C=C1)C#N)N=C(N2)NCC(=O)O)C2=CC(=CC=C2)C(F)(F)F)C | C23H16F3N7O2
